US06670372B2
2-Ethyl-2-(1H-imidazo[4,5-c]quinolin-1-yl)-1-ethanol (3.0 g, 12.43 mmol), dichloromethane (40 mL), aqueous sodium hydroxide (40 mL of 50%), benzyltrimethylammonium chloride (0.01 g) and 3-chlorobenzyl bromide (2.81 g, 13.67 mmol) were combined and the resulting solution was stirred at ambient temperature overnight. Analysis by TLC (5% methanol in dichloromethane) indicated that the reaction was complete. The reaction was diluted with dichloromethane (100 mL) and water (100 mL). The layers were separated. The aqueous fraction was extracted with dichloromethane. The organic fractions were combined, washed with brine, dried over magnesium sulfate and then concentrated under reduced pressure. The residue was purified by flash chromatography (silica gel eluting with ethyl acetate) to provide 4.22 g of 1-(1-{[(3-chlorobenzyl)oxy]methyl}propyl)-1H-imidazo[4,5-c]quinoline as a light orange oil.

reactant | 2-Ethyl-2-(1H-imidazo[4,5-c]quinolin-1-yl)-1-ethanol | 12.43 mmol, 3.0 g | C(C)C(CO)N1C=NC=2C=NC=3C=CC=CC3C21 | C14H15N3O
reactant | sodium hydroxide | 40 mL | [OH-].[Na+]
reactant | 3-chlorobenzyl bromide | 13.67 mmol, 2.81 g | ClC=1C=C(CBr)C=CC1 | C7H6BrCl
reactant | methanol | CO | CH4O
catalyst | benzyltrimethylammonium chloride | 0.01 g | [Cl-].C(C1=CC=CC=C1)[N+](C)(C)C
solvent | dichloromethane | ClCCl | CH2Cl2
solvent | dichloromethane | 100 mL | ClCCl | CH2Cl2
solvent | water | 100 mL | O | H2O
solvent | dichloromethane | 40 mL | ClCCl | CH2Cl2
product | 1-(1-{[(3-chlorobenzyl)oxy]methyl}propyl)-1H-imidazo[4,5-c]quinoline | 4.22 g | ClC=1C=C(COCC(CC)N2C=NC=3C=NC=4C=CC=CC4C32)C=CC1 | C21H20ClN3O
